US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (500 mg, 1.05 mmol), 3-formylphenylboronic acid (330 mg, 2.2 mmol) and 65 mg of tetrakis(triphenylphosphine)palladium(0) in 70 mL of ethylene glycol dimethyl ether and 40 mL of saturated aqueous sodium bicarbonate is heated at reflux for 1.5 hours. The reaction mixture is cooled to room temperature and partitioned between water and ethyl acetate. The organic layer is washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 1:1 hexane:ethyl acetate. The fractions containing product are combined and concentrated in vacuo. The residue is recrystallized from ethyl acetate to provide 62 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(3-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 262-263° C.; 1H NMR (DMSO-d6) δ 3.86 (s, 3H), 7.39 (s, 1H), 7.69-7.82 (m, 2H), 7.98 (s, 1H), 8.03-8.14 (m, 2H), 8.23 (s, 1H), 8.64 (s, 1H), 9.80 (s, 1H), 10.08 (s, 1H); MS 452.0, 453.9 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 1.05 mmol, 500 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 3-formylphenylboronic acid | 2.2 mmol, 330 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
solvent | ethylene glycol dimethyl ether | 70 mL | COCCOC | C4H10O2
solvent | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(3-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile | 62 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC(=CC=C2)C=O | C22H13Cl2N3O2S
